US04585772
9-Benzenesulphonylamino-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline
7.1 g of benzenesulphonic acid chloride were added to 4.04 g of 9-amino-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline in 50 ml of absolute pyridine, whilst cooling with ice. The cooling was removed and the mixture was stirred for 2 hours at room temperature. A large quantity of H2O was then added to the reaction mixture, and the precipitated crystals were filtered off under suction. The crystals were dissolved in aqueous NH3 and the solution was clarified using active charcoal and neutralised using hydrochloric acid.

reactant | benzenesulphonic acid chloride | 7.1 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 9-amino-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | 4.04 g | NC1=CC=2C=3N(C(NC2C=C1)=O)CCN3 | C10H10N4O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 9-Benzenesulphonylamino-5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | C1(=CC=CC=C1)S(=O)(=O)NC1=CC=2C=3N(C(NC2C=C1)=O)CCN3 | C16H14N4O3S
